US07452886B2
To a solution of 180.0 mg (0.728 mmoles) of 8-pyrimidin-2-yl-1,3,8-triaza-spiro[4.5]decane-2,4-dione in 2.0 ml of DMF, 99.4 mg (0.719 mmoles) of K2CO3 and 170.0 mg (0.553 mmoles) of 6-bromomethyl-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile are added at ambient temperature. The mixture is stirred for 5 hours at ambient temperature and filtered. The mixture is diluted with AcOEt and H2O, and then extracted with AcOEt. The combined extracts are washed with water and brine, dried over MgSO4 and concentrated under reduced pressure. The residue is purified by silica gel column chromatography to give 151.5 mg of desired 7-(2,2-dimethyl-propyl)-6-(2,4-dioxo-8-pyrimidin-2-yl-1,3,8-triaza-spiro[4.5]dec-3-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile in 58% yield.

reactant | 8-pyrimidin-2-yl-1,3,8-triaza-spiro[4.5]decane-2,4-dione | 0.728 mmoles, 180.0 mg | N1=C(N=CC=C1)N1CCC2(C(NC(N2)=O)=O)CC1 | C11H13N5O2
reactant | K2CO3 | 0.719 mmoles, 99.4 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 6-bromomethyl-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 0.553 mmoles, 170.0 mg | BrCC1=CC2=C(N=C(N=C2)C#N)N1CC(C)(C)C | C13H15BrN4
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
product | 7-(2,2-dimethyl-propyl)-6-(2,4-dioxo-8-pyrimidin-2-yl-1,3,8-triaza-spiro[4.5]dec-3-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 151.5 mg, 58% yield | CC(CN1C(=CC2=C1N=C(N=C2)C#N)CN2C(NC1(C2=O)CCN(CC1)C1=NC=CC=N1)=O)(C)C | C24H27N9O2
